Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Demerol
 
Attending: ___.
 
Chief Complaint:
B/l lower extremity swelling
 
Major Surgical or Invasive Procedure:
None
 
History of Present Illness:
The patient is a ___ year old female h/o LLE swelling x ___ 
months with recent diagnosis of extensive retroperitoneal  
retrocrual b/l common iliac lyphadenoapathy probably secondary 
to malignancy in the uterus. She then developed RLE edema ___ 
days ago. Pt also with extra-hepatic and intraphepatic 
dilatation. Pt L iliac common femoral vein is completely 
occluded, pt also has a gallstone. Given the sudden nature of 
the RLE swelling she presented to the ED. 
In the ED
She otherwise ___ sob, cp, nausea, post prandial pain or any 
abdominal pain, fevers, chills, malaise, dysuria. No diarrhea. 
She does report a decreased in her appetite. No neuro sx. All 
other ROS negative. 
 
Past Medical History:
Uterine cancer
Glaucoma
HTN
HLD
 
Social History:
___
Family History:
Father died of an MI at age ___
Mother died of an MI at age ___
Brother died of an MI at age ___ had ___ MIs before he was ___
 
Physical Exam:
97.5 165/44 83 18 92% on RA 
GEN: NAD, comfortable appearing  
She is a good historian
HEENT: Pupils sluggish   
CV: s1s2 rr SEM at LUSB 
RESP: b/l crackles at the bases to ___ up
ABD: +bs, soft, NT, ND, no guarding or rebound  
back:  
EXTR: b/l lower 3++ -4++ edema b/l
Metastasis on upper L arm. 
Pulses are dopplable b/l but cannot be appreciated
DERM: no rash
NEURO: face symmetric speech fluent  
PSYCH: calm, cooperative  

Discharge PE:
VS: T: 97.3 HR: 77 BP: 145/53 RR: 16 99% RA 
Gen: NAD, resting comfortably in bed
HEENT: EOMI, PERRLA, MMM
CV: RRR nl s1s2 no m/r/g
Resp: CTAB no w/r/r
Abd: Soft, NT, mild distention +BS
Ext: 4+ pitting edema bilaterally, hard nodule in left upper arm
Neuro: CN II-XII intact, ___ strength throughout
Psych: normal affect
Skin: warm, dry no rashes

 
Pertinent Results:
___ 01:13AM   GLUCOSE-85 UREA N-26* CREAT-1.2* SODIUM-137 
POTASSIUM-4.4 CHLORIDE-106 TOTAL CO2-18* ANION GAP-17
___ 01:13AM   estGFR-Using this
___ 01:13AM   WBC-9.0 RBC-3.88* HGB-7.8* HCT-26.4* MCV-68* 
MCH-20.1* MCHC-29.5* RDW-18.9* RDWSD-45.1
___ 01:13AM   NEUTS-79.8* LYMPHS-12.4* MONOS-6.7 EOS-0.4* 
BASOS-0.4 IM ___ AbsNeut-7.18* AbsLymp-1.12* AbsMono-0.60 
AbsEos-0.04 AbsBaso-0.04
___ 01:13AM   PLT COUNT-504*
=================
CT scan of abdomen ___
Extensive retrocrural, retroperitoneal b/l common iliac and L 
pelvic LAD
2.3 x 2.2 hypodense mass along the R uterus which may the source 
of the patient's primary malignancy
3. Moderate intrahepatic and extra-hepatic biliary dilatation
Occlusion of the L iliac nad common femoral vein due to 
patient's extensive LAD
Gallstone
Non-obstructing kidney stones
====================
___

7.8/28.5\593
=======================
141|104|25 /
4.7| ___
===============
AST = 54
=============
OSH LEUS:
No visualized evidence of RLE DVT
Incomplete exam of the LLE without occlusive thrombus

CT A/P ___: 
IMPRESSION: 
1. Extensive, confluent and heterogeneous retroperitoneal, left 
pelvic 
sidewall and bilateral inguinal lymphadenopathy as described 
above consistent with extensive metastatic disease.  Enhancing 
heterogeneous mass along the right side of the uterus may 
represent a primary focus of disease.  1.9 cm left adrenal 
lesion may represent an additional metastatic focus. 
2. Moderate to severe intrahepatic biliary ductal dilatation and 
common bile 
duct dilatation up to 1.6 cm.  Recommend correlation with LFTs. 
3. Small bilateral pleural effusions.  Diffuse body wall edema. 

 
Brief Hospital Course:
___ year old female with h/o metastatic cancer with mullerian 
primary c/b retroperitoneal LAD with venous occlusion with left 
sided edema with new onset of severe RLE edema.
.
METASTATIC mullerian cell cancer
VENOUS OCCLUSION
Severe lower extremity edema
Recently diagnosed in ___ when she presented with left 
leg swelling s/p biopsy of inguinal lymph node on ___ 
showing metastatic poorly differentiated carcinoma with 
neuroendocrine features and consistent with mullerian primary. 
CT
on ___ showed diffuse retroperitoneal, retrocrural, common 
iliac and left pelvic lymphadenopathy with 2.3x2.2 cm right 
uterine mass.  She has not seen on oncologist yet or started 
treatment and presented due to new onset severe right lower 
extremity edema.  Lower extremity dopplers negative for DVT.  
Currently stable without any acute need for radiation or 
chemotherapy.  She was seen by the oncology consult service.  
Her records including her pathology slides had previously been 
sent to ___.  It was determined that following up at ___ as 
scheduled would be the fastest way to determine appropriate 
treatment.
- Plan for discharge with close outpatient follow-up at ___ on 
___. 
- pain control with Percocet
- bowel regimen
- continue Lasix for leg swelling.  She is declining compression 
stockings due to pain.
- ___ recommending rehab, plan for d/c to STR on ___
.
BILIARY DILATATION: CT showing biliary dilation similar to 
prior, her LFTs are
essentially normal (aside from trivially elevated AST to 41) 
without current significant abdominal symptoms
-Trend LFTs
.
HTN: Discontinued Cardizem in case it was contributing to leg 
swelling. Started HCTZ.

ANEMIA, iron deficiency.  Severe iron deficiency that has been 
progressive, hemoglobin on ___ was 8.8.  She has never had 
a colonscopy before and is not interested in one. She denies any 
recent vaginal bleeding, she reports having a hemorrhoid but 
denies any recent GI bleeding.  Anemia worsening likely 
multifactorial from chronic disease, possible occult blood loss 
and dilution.  Received 1 unit pRBC on ___ with more than 
appropriate increase in hemoglobin.  No signs of active 
bleeding.
- Continue ferrous sulfate

FEN/PPX: regular diet, heparin SC

Full code
Dispo: D/c to STR
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Diltiazem Extended-Release 120 mg PO DAILY 
2. Furosemide 20 mg PO DAILY 
3. Latanoprost 0.005% Ophth. Soln. 1 DROP BOTH EYES QHS 
4. Oxycodone-Acetaminophen (5mg-325mg) 2 TAB PO Q6H:PRN pain 
5. Simvastatin 40 mg PO QPM 

 
Discharge Medications:
1. Furosemide 20 mg PO DAILY 
2. Latanoprost 0.005% Ophth. Soln. 1 DROP BOTH EYES QHS 
3. Simvastatin 40 mg PO QPM 
4. ClonazePAM 1 mg PO BID:PRN anxiety 
RX *clonazepam 1 mg 1 tablet(s) by mouth twice a day Disp #*60 
Tablet Refills:*0
5. Oxycodone-Acetaminophen (5mg-325mg) 2 TAB PO Q4H:PRN pain 
RX *oxycodone-acetaminophen 5 mg-325 mg 2 tablet(s) by mouth 
every four (4) hours Disp #*180 Tablet Refills:*0
6. Docusate Sodium 100 mg PO BID:PRN constipation 
7. Ferrous Sulfate 325 mg PO DAILY 
8. Hydrochlorothiazide 25 mg PO DAILY 
9. Polyethylene Glycol 17 g PO DAILY:PRN constipation 
10. Senna 8.6 mg PO BID:PRN constipation 

 
Discharge Disposition:
Home with Service
 
Facility:
___
 
Discharge Diagnosis:
metastatic uterine cancer
 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - requires assistance or aid (walker 
or cane).
 
Discharge Instructions:
You were admitted for worsening swelling in your legs due to 
your uterine cancer.  You were seen by the oncology team and 
they recommended following up with your doctor at the ___ 
___.  You were also given 1 unit of blood 
for worsening anemia (low red blood cell count).  Please 
follow-up with your oncologist at ___ as scheduled.
 
Followup Instructions:
___